US05624942
Synthesis of 4-cyano-2-(3-thienylmethyloxy)-6-(meta-trifluoromethylphenoxy)pyridine (I-9)
2-Chloro-4-cyano-6-(3-thienylmethyloxy)pyridine (0.79 g, 0.00315 mol) and meta-trifluoromethylphenol (0.57 g, 0.00315×1.1 mol) were dissolved in 20 ml of N-methyl-2-pyrrolidinone, and anhydrous potassium carbonate (0.48 g, 0.00315×1.1 mol) was added thereto, and the resultant solution was stirred for about 4 hours at about 100° C.

reactant | 2-Chloro-4-cyano-6-(3-thienylmethyloxy)pyridine | 0.00315 mol, 0.79 g | ClC1=NC(=CC(=C1)C#N)OCC1=CSC=C1 | C11H7ClN2OS
reactant | meta-trifluoromethylphenol | 1.1 mol, 0.57 g | FC(C=1C=C(C=CC1)O)(F)F | C7H5F3O
reactant | potassium carbonate | 1.1 mol, 0.48 g | C([O-])([O-])=O.[K+].[K+]
solvent | N-methyl-2-pyrrolidinone | 20 ml | CN1C(CCC1)=O | C5H9NO
product | 4-cyano-2-(3-thienylmethyloxy)-6-(meta-trifluoromethylphenoxy)pyridine | C(#N)C1=CC(=NC(=C1)OC1=CC(=CC=C1)C(F)(F)F)OCC1=CSC=C1 | C18H11F3N2O2S
